US05968985
The mixture of methyl 5-formyl-3-iodobenzoate (2.5 g), malonic acid (1.8 g) and piperidine (0.2 ml) in pyridine (25 ml) was stirred for 3 hours at 100° C. The mixture was added to water and adjusted to pH 2 with 6N-hydrochloric acid. The isolated precipitate was collected by filtration to give methyl 5-[(E)-2-carboxyethenyl]-3-iodobenzoate (2.4 g)

reactant | methyl 5-formyl-3-iodobenzoate | 2.5 g | C(=O)C=1C=C(C=C(C(=O)OC)C1)I | C9H7IO3
reactant | malonic acid | 1.8 g | C(CC(=O)O)(=O)O | C3H4O4
reactant | piperidine | 0.2 ml | N1CCCCC1 | C5H11N
reactant | hydrochloric acid | Cl | ClH
solvent | pyridine | 25 ml | N1=CC=CC=C1 | C5H5N
solvent | water | O | H2O
product | methyl 5-[(E)-2-carboxyethenyl]-3-iodobenzoate | 2.4 g | C(=O)(O)/C=C/C=1C=C(C=C(C(=O)OC)C1)I | C11H9IO4
